US06734200B1
3-Fluoro-4-(4-methylimidazol-1-yl)nitrobenzene
4-Methylimidazole (45.1 g, 0.55 M) and N,N-diisopropylethylamine (161 g, 1.25 M) were dissolved in acetonitrile (800 ml), and 3,4-difluoronitrobenzene (79.5 g, 0.5 M) added. The mixture was stirred and heated to reflux under nitrogen for 24 hours. Solvent was evaporated, the residue dissolved in ethyl acetate (800 ml), washed with water (400 ml), brine (200 ml), and dried (magnesium sulfate). The residue was dissolved in toluene (250 ml), treated with charcoal, filtered, and diluted with hot cyclohexane (75 ml) to crystallise 3-fluoro-4-(4-methylimidazol-1-yl)nitrobenzene (64.7 g). NMR (DMSO-d6) δ: 2.18 (s, 3H); 7.29 (s, 1H); 7.92 (t, 1H); 8.07 (s, 1H); 8.18 (dd, 1H); 8.38 (dd, 1H). MS (ESP): 222 (MH+) for C10H8FN3O2

reactant | 4-Methylimidazole | 0.55 M, 45.1 g | CC=1N=CNC1 | C4H6N2
reactant | N,N-diisopropylethylamine | 1.25 M, 161 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3,4-difluoronitrobenzene | 0.5 M, 79.5 g | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
solvent | acetonitrile | 800 ml | C(C)#N | C2H3N
product | 3-Fluoro-4-(4-methylimidazol-1-yl)nitrobenzene | FC=1C=C(C=CC1N1C=NC(=C1)C)[N+](=O)[O-] | C10H8FN3O2
